US07534797B2
2-Phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline
A mixture of PdCl2dppf.CH2Cl2 (28 mg, 0.038 mmol), dppf (21 mg, 0.038 mmol), potassium acetate (370 mg, 3.77 mmol), bis(pinacolato)diboron (384 mg, 1.51 mmol), and trifluoromethanesulfonic acid 2-phenylquinolin-7-yl ester (444.3 mg, 1.258 mmol) in dry 1,4-dioxane (10 mL) was heated under nitrogen to 80° C. for 27 h. After cooling to RT, water was added, the mixture was extracted with EtOAc (3×35 mL), the combined extracts were washed with water and brine, dried over MgSO4, filtered, and adsorbed onto Hydromatrix. Chromatography on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with hexanes:EtOAc 19:1→9:1→5:1] gave the title compound as pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 1.40 (s, 12H), 7.43-7.49 (m, 1H), 7.50-7.56 (m, 2H), 7.81 (d, J=8.4 Hz, 1H), 7.88 (dd, J=8.0, 0.8 Hz, 1H), 7.92 (d, J=8.4 Hz, 1H), 8.17-8.23 (m, 2H), 8.70 (s, 1H); MS (ES+): m/z 332.1 (100) [MH+]; HPLC: tR=4.4 min (OpenLynx, polar—5 min).

reactant | CH2Cl2 | 0.038 mmol, 28 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 3.77 mmol, 370 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 1.51 mmol, 384 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | trifluoromethanesulfonic acid 2-phenylquinolin-7-yl ester | 1.258 mmol, 444.3 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)OS(=O)(=O)C(F)(F)F | C16H10F3NO3S
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 0.038 mmol, 21 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | water | O | H2O
product | 2-Phenyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-quinoline | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1OC(C(O1)(C)C)(C)C | C21H22BNO2
